US08455475B2
(R)-Methyl 3-(2-chlorophenylsulfonamido)-2,3-dihydro-1H-indene-5-carboxylate
Triethylamin (2.195 mmol, 2,5 eq.) and 2-chlorobenzene-1-sulfonyl chloride (0,878 mmol, 1 eq.) were added to an ice-cold solution of (3R)-3-amino-2,3-dihydro-1H-indene-5-carboxylic acid methyl ester hydrochloride (A-03 HCl) (0.878 mmol, 1 eq.) in methylene chloride under an inert atmosphere. The mixture was then stirred at room temperature for 2 h. The reaction mixture was diluted with ethyl acetate (50 ml) and the organic phase was washed with 10% NH4Cl solution (20 ml), sat. NaHCO3 solution (20 ml) and sat. NaCl solution (20 ml). The organic phase was dried over MgSO4 and concentrated in vacuo. The crude product was purified by column chromatography over silica gel (cyclohexane/ethyl acetate, 2:1) to obtain the desired product. Yield: >99%

reactant | Triethylamin | 2.195 mmol, 2,5 eq. | C(C)N(CC)CC | C6H15N
reactant | 2-chlorobenzene-1-sulfonyl chloride | 0,878 mmol, 1 eq. | ClC1=C(C=CC=C1)S(=O)(=O)Cl | C6H4Cl2O2S
reactant | (3R)-3-amino-2,3-dihydro-1H-indene-5-carboxylic acid methyl ester hydrochloride | 0.878 mmol, 1 eq. | Cl.COC(=O)C=1C=C2[C@@H](CCC2=CC1)N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | (R)-Methyl 3-(2-chlorophenylsulfonamido)-2,3-dihydro-1H-indene-5-carboxylate | Yield: >99% | ClC1=C(C=CC=C1)S(=O)(=O)N[C@@H]1CCC2=CC=C(C=C12)C(=O)OC | C17H16ClNO4S
